US08404687B2
(S)-1-(4-Fluorophenyl)-4-(3-methylpiperazin-1-yl)phthalazine
Treat a solution of (S)-tert-butyl 4-(4-(4-fluorophenyl)phthalazin-1-yl)-2-methylpiperazine-1-carboxylate (7.05 g, 16.2 mmol) in 1,4-dioxane (50 mL) with 4 M HCl in 1,4-dioxane (25 mL). Add MeOH to dissolve the resultant precipitate and stir for 2 h at ambient temperature. Concentrate the reaction mixture under reduced pressure. Dissolve residue in MeOH and pour onto a 50 g Varian® SCX column. Rinse with MeOH and CH2Cl2, then elute the product with 1:1 CH2Cl2: 2 M ammonia in MeOH. Concentrate the eluent under reduced pressure to provide the title compound as a pale yellow foam (4.83 g, 93%). ES/MS m/z 323.2 (M+1).

reactant | (S)-tert-butyl 4-(4-(4-fluorophenyl)phthalazin-1-yl)-2-methylpiperazine-1-carboxylate | 16.2 mmol, 7.05 g | FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C24H27FN4O2
reactant | HCl | 4 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (S)-1-(4-Fluorophenyl)-4-(3-methylpiperazin-1-yl)phthalazine | 4.83 g, 93% | FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1C[C@@H](NCC1)C | C19H19FN4
